US06248739B1
Diethyl 2-{[cyclopropyl-4-(4-morpholinylmethyl)anilino]methylene}malonate
To a flask containing N-cyclopropyl-4-(4-morpholinylmethyl)aniline (0.55 g) from Preparation No. 23 is added diethyl ethoxymethylenemalonate (0.45 mL) and pyridine (0.33 mL). The flask is tightly capped and heated to 145° C. for 2 hours. The reaction is cooled to room temperature and azeotroped under reduced pressure with toluene (3×). The residue is dissolved in dichloromethane and washed with brine, dried and concentrated under reduced pressure. The residue is chromatographed on silica eluting with 2% to 6% methanol in dichloromethane. The product-containing fractions are evaporated to give 0.77 g of the title compound as an oil.

reactant | N-cyclopropyl-4-(4-morpholinylmethyl)aniline | 0.55 g | C1(CC1)NC1=CC=C(C=C1)CN1CCOCC1 | C14H20N2O
reactant | diethyl ethoxymethylenemalonate | 0.45 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | pyridine | 0.33 mL | N1=CC=CC=C1 | C5H5N
product | Diethyl 2-{[cyclopropyl-4-(4-morpholinylmethyl)anilino]methylene}malonate | 0.77 g | C1(CC1)N(C1=CC=C(C=C1)CN1CCOCC1)C=C(C(=O)OCC)C(=O)OCC | C22H30N2O5
